US05506239
1.75 g of 4-(2-chloro-6-quinolyloxy)butylsulfonyl chloride was added, at 0° C., to a solution of 1.6 g of 1-[2-(2-chlorobenzylamino)ethyl]-4-methoxymethoxypiperidine and 1 ml of triethylamine in 25 ml dichloromethane. The mixture was stirred at room temperature for 1 day. The reaction mixture was washed with water and dried with magnesium sulfate. The solvent was removed by distillation. The resulting residue was purified by a silica gel column chromatography (eluant: 3% methanol/dichloromethane) to obtain 2.63 g of 2-chloro-6-[4-{N-(2-chlorobenzyl)-N-[2-(4-methoxymethoxy-1-piperidinyl)ethyl]aminosulfonyl}butoxy]quinoline.

reactant | 4-(2-chloro-6-quinolyloxy)butylsulfonyl chloride | 1.75 g | ClC1=NC2=CC=C(C=C2C=C1)OCCCCS(=O)(=O)Cl | C13H13Cl2NO3S
reactant | 1-[2-(2-chlorobenzylamino)ethyl]-4-methoxymethoxypiperidine | 1.6 g | ClC1=C(CNCCN2CCC(CC2)OCOC)C=CC=C1 | C16H25ClN2O2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-chloro-6-[4-{N-(2-chlorobenzyl)-N-[2-(4-methoxymethoxy-1-piperidinyl)ethyl]aminosulfonyl}butoxy]quinoline | 2.63 g | ClC1=NC2=CC=C(C=C2C=C1)OCCCCS(=O)(=O)N(CCN1CCC(CC1)OCOC)CC1=C(C=CC=C1)Cl | C29H37Cl2N3O5S
